US04097500
A solution of 11.9 g (0.05 mole) of 5-(4-nitrophenyl)furfuryl chloride and 14.9 g (0.10 mole) of d-N,a-dimethylphenethylamine in 60 ml of benzene was heated under reflux for 7 hrs. After standing overnight, the solid N,a-dimethylphenethylamine hydrochloride (9 g, 97%) was collected by filtration and washed with benzene. The benzene filtrate was washed with 10% Na2CO3 and water and dried over MgSO4. The solvent was removed on a rotary evaporator, and the residual oil was dissolved in 100 ml of anhydrous ether and 35 ml of nhydrous MeOH. The solution was treated with 20 ml of ethereal HCl and diluted with ether to give an oil. The solvent was removed on a rotary evaporator, and the residual oil was dissolved in ethyl acetate with heating. Cooling gave an oil which was dissolved by the addition of MeOH and 10 ml of etheral HCl. After cooling and dilution with ether, the yellow solid which was deposited was collected by filtration to give 13 g (67%) of N-methyl-5-(4-nitrophenyl)-N-(a-methylphenethyl)furfurylamine hydrochloride; m.p. 168°-175°.

reactant | 5-(4-nitrophenyl)furfuryl chloride | 0.05 mole, 11.9 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(CCl)O1 | C11H8ClNO3
reactant | d-N,a-dimethylphenethylamine | 0.10 mole, 14.9 g | C[C@@H](CC1=CC=CC=C1)NC | C10H15N
reactant | MeOH | CO | CH4O
reactant | HCl | 10 ml | Cl | ClH
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | N-methyl-5-(4-nitrophenyl)-N-(a-methylphenethyl)furfurylamine hydrochloride | 13 g, 67% | Cl.CN(C(CC1=CC=CC=C1)C)CC1=CC=C(O1)C1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C21H22N2O3.ClH/c1-16(14-17-6-4-3-5-7-17)22(2)15-20-12-13-21(26-20)18-8-10-19(11-9-18)23(24)25;/h3-13,16H,14-15H2,1-2H3;1H
